US06884814B2
4-(6-Hydroxy-1,2-benzisoxazol-3-yl)-6-methylbenzene-1,3-diol
To a solution of 3-(5-bromo-2,4-dimethoxyphenyl)-6-methoxy-1,2-benzisoxazole (200 mg, 0.55 mmol) in THF (6 mL) at −78° C. was added n-BuLi (0.24 mL, 0.60 mmol, 2.5 M in hexanes) dropwise. The solution was stirred at −78° C. for 30 min and then iodomethane (60 μL, 0.96 mmol) was added dropwise. The cooling bath was switched to an ice bath and the solution was stirred at 0° C. for 2 h. The reaction was quenched with water, most of the solvent was removed in vacuo, and extraction was conducted in EtOAc (2×30 mL) with water (20 mL). Flash chromatography with silica gel (gradient to 25% EtOAc/hexanes) provided a mixture of the desired methylated product and the protonated side product (both compounds have the same Rf). The above mixture of compounds was treated with BBr3 according to Example 2, Step i, to produce the title compound as a light orange solid (114 mg, 81% yield for two steps): mp 195° C. (dec.); 1H NMR (300 MHz, acetone-d6) δ 2.25 (s, 3H), 6.59 (s, 1H), 7.04 (dd, 1H, J=8.5, 2.1 Hz), 7.09 (d, 1H, J=1.8 Hz), 7.80 (s, 1H), 8.12 (d, 1H, J=8.8 Hz), 8.88 (broad s, 1H), 9.42 (broad s, 1H), 9.52 (s, 1H); MS m/e 258 (M+H)+.

reactant | 3-(5-bromo-2,4-dimethoxyphenyl)-6-methoxy-1,2-benzisoxazole | 0.55 mmol, 200 mg | BrC=1C(=CC(=C(C1)C1=NOC2=C1C=CC(=C2)OC)OC)OC | C16H14BrNO4
reactant | n-BuLi | 0.60 mmol, 2.5 M, 0.24 mL | [Li]CCCC
reactant | iodomethane | 0.96 mmol, 60 μL | IC | CH3I
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-(6-Hydroxy-1,2-benzisoxazol-3-yl)-6-methylbenzene-1,3-diol | 114 mg, 81% yield | OC1=CC2=C(C(=NO2)C2=C(C=C(C(=C2)C)O)O)C=C1 | C14H11NO4
